US06103910
a) (R)-1-[4-[(R)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-2,3-dimethyl-4-oxo-butyryl]-pyrrolidine-2-carboxylic acid benzyl ester (mixture of 3 diastereomers)
Using General Procedure A with 2.0 g (8.2 mmol) D-Proline benzyl ester hydrochloride and 600 mg (4.1 mmol) 2,3-dimethylsuccinic acid afforded, after flash chromatography (EtOAc), 1.45 g (69%) of the title compound as a colorless oil.

reactant | D-Proline benzyl ester hydrochloride | 8.2 mmol, 2.0 g | Cl.C(C1=CC=CC=C1)OC([C@@H]1NCCC1)=O
reactant | 2,3-dimethylsuccinic acid | 4.1 mmol, 600 mg | CC(C(=O)O)C(C(=O)O)C | C6H10O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-1-[4-[(R)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-2,3-dimethyl-4-oxo-butyryl]-pyrrolidine-2-carboxylic acid benzyl ester | 1.45 g, 69% | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(C(C(C(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)C)C)=O | C30H36N2O6
